US08669266B2
(vi) 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 2.2 g of 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 30 ml of DMF, 883 mg of EDC, 848 mg of pentafluorophenol and 885 mg of NEM was added and the reaction mixture was stirred for 2 h at RT. Then, 732 mg of (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide hydrochloride and 442 mg of NEM in 5 ml of DMF was added. After 2 h the reaction mixture was diluted with water and extracted with DCM (3×50 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was pure enough for the next reaction step. Yield: 2.9 g.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 2.2 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)O)=O | C28H36N4O9
reactant | EDC | 883 mg
reactant | pentafluorophenol | 848 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide hydrochloride | 732 mg | Cl.C1(CC1)NC(=O)[C@H]1NCCC1
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CC1)=O)=O | C36H48N6O9
